US05286752
A solution of 9.15 g (50 mmol) of (diphenylmethyl)amine and 8.33 g (70 mmol of dimethylformamide dimethylacetal in 25 mL of dichloromethane was refluxed briefly and slowly distilled through a Vigreux column, distilling off all material that boiled at or below 90°. The residue was stripped in vacuo, poured into water, cooled, and the resulting solid filtered off. After drying, it was recrystallized from hexane to provide 8.3 g (70%) of N'-(diphenylmethyl)-N,N-dimethylmethanimidamide, mp 58-60.

reactant | (diphenylmethyl)amine | 50 mmol, 9.15 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)N | C13H13N
reactant | dimethylformamide dimethylacetal | 70 mmol | COC(N(C)C)OC | C5H13NO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N'-(diphenylmethyl)-N,N-dimethylmethanimidamide | 8.3 g, 70% | C1(=CC=CC=C1)C(N=CN(C)C)C1=CC=CC=C1 | C16H18N2
